US06576627B1
The crude 1-(diphenylmethylamino)cyclopentylphosphinic acid (1.53 g) obtained in the above step (a) was added with 47% aqueous hydrobromic acid (20 ml) and stirred at 100° C. for 2 hours. The reaction product was extracted with water from the residue obtained by removing the solvent from the reaction system under reduced pressure. The aqueous layer was washed with diethyl ether and concentrated. The resulting oil was dissolved in ethanol and added with propylene oxide (3 ml) and ethyl acetate. The precipitated crystals were collected by filtration and dried to give 1-aminocyclopentylphosphinic acid (462 mg, 13%).

reactant | 1-(diphenylmethylamino)cyclopentylphosphinic acid | 1.53 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC1(CCCC1)P(O)=O | C18H22NO2P
solvent | hydrobromic acid | 20 ml | Br | BrH
product | 1-aminocyclopentylphosphinic acid | 462 mg, 13% | NC1(CCCC1)P(O)=O | C5H12NO2P
